US05691307
17β-Chloroacetoxy-5α-androstan-3-one
Dihydrotestosterone (2.6 mmol) was dissolved in anhydrous methylene chloride (3 mL) and triethylamine (2.6 mmol) under argon. The solution was stirred at 0° C. for 30 minutes at which time chloroacetyl chloride (3.75 mmol) dissolved in anhydrous methylene chloride (2 mL) was added. The resulting mixture was stirred for an additional 30 min at 0° C. and at room temperature for 4 hr. The solution was diluted with CH2 Cl2 (30 mL) and was washed with aqueous 0.05N hydrochloric acid (2×30 mL) and water (2×30 mL). The organic layer was dried over sodium sulfate and evaporated under vacuum to give crude product as a white solid. The product was purified by silica gel column chromatography (Davisil grade 633, 200-425 mesh, 60 Å) using CHCl3 as eluent. Yield, 0.38 g (41%); mp 135°-136° C. (lit. Ferguson et al., J. Chem. Soc., Perkin II, 3, 267-272 (1978)), 138° C.); 1H NMR δ0.78 (s, 3 H, CH3 -19), 0.98 (s, 3 H, CH3 -18), 0.78-2.49 (m, 22 H), 4.37 (d, 2 H, CH2Cl), 4.62 (t, 1 H, H-17); MS (EI) calcd m/z for C21H31O335Cl 366.1961, found, 366.1932; calcd. m/z for C21H31O337Cl 368.1932, found, 368.1911.

reactant | Dihydrotestosterone | 2.6 mmol | C[C@]12CCC(=O)C[C@@H]1CC[C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@@H]4O)C | C19H30O2
reactant | triethylamine | 2.6 mmol | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 3.75 mmol | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | Cl2 | 30 mL | ClCl | Cl2
product | 17β-Chloroacetoxy-5α-androstan-3-one | ClCC(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C21H31ClO3
